US09371321B2
Step D: tert-Butyl (S)-4-(5-(1-((2-amino-5-cyano-6-ethylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate
To a 10 mL vial were added tert-butyl (S)-4-(5-(1-((5-cyano-6-ethyl-2-(methylsulfonyl)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate (32 mg, 0.056 mmol) in dioxane (2 mL) along with 0.5 M ammonia in dioxane (6.09 μL, 0.281 mmol) to give a yellow solution. The vial was sealed and the reaction mixture was stirred overnight at 75° C. The next day LCMS indicated the reaction was incomplete. Additional NH3 solution (2 eq) was added and the reaction mixture was allowed to stir for 6 hours at 75° C. LCMS showed the reaction was mostly complete. The reaction mixture was diluted with EtOAc and washed with saturated aqueous NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography (ISCO 4 g, 50-100% EtOAc/hexane gradient) to give the title compound as a yellow oil.

reactant | tert-butyl (S)-4-(5-(1-((5-cyano-6-ethyl-2-(methylsulfonyl)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | 0.056 mmol, 32 mg | C(#N)C=1C(=NC(=NC1CC)S(=O)(=O)C)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C | C27H36N8O4S
reactant | ammonia | 0.5 M | N | H3N
reactant | NH3 | 2 eq | N | H3N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 0.281 mmol, 6.09 μL | O1CCOCC1 | C4H8O2
product | tert-Butyl (S)-4-(5-(1-((2-amino-5-cyano-6-ethylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C)C#N)CC | C26H35N9O2
